US07368578B2
A mixture of {3-[(4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}-3-methoxybenzyl)oxy]-1-methyl-1H-pyrazol-4-yl}methanol (3.80 g), activated manganese dioxide (12.0 g) and tetrahydrofuran (150 mL) was stirred at room temperature for 15 hrs. Manganese dioxide was removed by filtration and the filtrate was concentrated. The obtained crystals were collected by filtration to give 3-[(4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}-3-methoxybenzyl)oxy]-1-methyl-1H-pyrazole-4-carbaldehyde (3.64 g, yield 97%). Recrystallization from ethyl acetate-hexane gave colorless prism crystals. melting point: 155-156° C.

reactant | {3-[(4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}-3-methoxybenzyl)oxy]-1-methyl-1H-pyrazol-4-yl}methanol | 3.80 g | O1C(=CC=C1)C=1OC(=C(N1)COC1=C(C=C(COC2=NN(C=C2CO)C)C=C1)OC)C | C22H23N3O6
catalyst | manganese dioxide | 12.0 g | [O-2].[O-2].[Mn+4]
solvent | tetrahydrofuran | 150 mL | O1CCCC1 | C4H8O
product | 3-[(4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}-3-methoxybenzyl)oxy]-1-methyl-1H-pyrazole-4-carbaldehyde | 3.64 g, yield 97% | O1C(=CC=C1)C=1OC(=C(N1)COC1=C(C=C(COC2=NN(C=C2C=O)C)C=C1)OC)C | C22H21N3O6
